US04225533
Following the procedure of Example 2, 3-(4-methylphenoxy)-2,2-dimethylcyclopropanecarboxylic acid is reacted with α-cyano-4-fluoro-3-phenoxybenzyl methanesulfonate to yield α-cyano-4-fluoro-3-phenoxybenzyl 3-(4-methylphenoxy)-2,2-dimethylcyclopropanecarboxylate.

reactant | 3-(4-methylphenoxy)-2,2-dimethylcyclopropanecarboxylic acid | CC1=CC=C(OC2C(C2C(=O)O)(C)C)C=C1 | C13H16O3
reactant | α-cyano-4-fluoro-3-phenoxybenzyl methanesulfonate | CS(=O)(=O)OC(C1=CC(=C(C=C1)F)OC1=CC=CC=C1)C#N | C15H12FNO4S
product | α-cyano-4-fluoro-3-phenoxybenzyl 3-(4-methylphenoxy)-2,2-dimethylcyclopropanecarboxylate | CC1=CC=C(OC2C(C2C(=O)OC(C2=CC(=C(C=C2)F)OC2=CC=CC=C2)C#N)(C)C)C=C1 | C27H24FNO4
